US06998491B2
In a 3-L flask equipped with a stirrer, a thermometer and a dropping funnel, 110 g (522.39 mmol) of anhydrous trimellitic chloride (4-chlorocarbonylphthalic anhydride) and 770 g of 1,4-dioxane were placed and were stirred at room temperature in an atmosphere of a nitrogen gas. To the resulting mixture, a mixture of 92.70 g (497.52 mmol) of 1-dodecanol, 41.32 g (522.39 mmol) of pyridine and 370 g of 1,4-dioxane was added dropwise over 1 hour. The mixture was stirred at room temperature for further 5 hours, followed by dropwise addition of 570 g of pure water over 30 minutes. Pyridine hydrochloride separated in a reaction system was then dissolved, and a crystal of target 4-dodecyloxycarbonylphthalic anhydride separated out. The resulting mixture was stirred for further 1 hour, the precipitate was separated by filtration and was rinsed with pure water, was then dried at 50° C. under reduced pressure and thereby yielded 145.26 g (402.99 mmol) of 4-dodecyloxycarbonylphthalic anhydride as a white powder. The yield was 80.1% on the basis of 1-dodecanol and 77.1% on the basis of anhydrous trimellitic chloride.

reactant | trimellitic chloride | 522.39 mmol, 110 g | C(C=1C(C(=O)Cl)=CC(C(=O)Cl)=CC1)(=O)Cl | C9H3Cl3O3
reactant | 1,4-dioxane | 770 g | O1CCOCC1 | C4H8O2
reactant | 1-dodecanol | 497.52 mmol, 92.70 g | C(CCCCCCCCCCC)O | C12H26O
reactant | pyridine | 522.39 mmol, 41.32 g | N1=CC=CC=C1 | C5H5N
reactant | 1,4-dioxane | 370 g | O1CCOCC1 | C4H8O2
solvent | water | 570 g | O | H2O
product | 4-dodecyloxycarbonylphthalic anhydride | 402.99 mmol, 145.26 g, yield was 80.1% | C(CCCCCCCCCCC)OC(=O)C=1C=C2C(C(=O)OC2=O)=CC1 | C21H28O5
